US08026370B2
(6-phenylpyridin-3-yl)methanol
Lithium aluminum hydride (3.50 g) was suspended in tetrahydrofuran (200 mL), 6-phenylnicotinic acid ethyl ester (21.0 g) synthesized in Reference Example 19 was added under ice-cooling, and the mixture was stirred at room temperature for 12 hr. The reaction mixture was ice-cooled, water (5 mL) and aqueous sodium hydroxide solution (1 mol/L, 10 mL) were successively added dropwise. After warming to room temperature, the mixture was stirred for 1 hr. Anhydrous sodium sulfate was added to the reaction mixture, the mixture was filtered through celite, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography (elution solvent; hexane:ethyl acetate=1:1 to 1:3) to give the title compound (17.0 g) as a colorless oil.

reactant | Lithium aluminum hydride | 3.50 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 6-phenylnicotinic acid ethyl ester | 21.0 g | C(C)OC(C1=CN=C(C=C1)C1=CC=CC=C1)=O | C14H13NO2
reactant | sodium hydroxide | 1 mol/L, 10 mL | [OH-].[Na+]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | (6-phenylpyridin-3-yl)methanol | 17.0 g | C1(=CC=CC=C1)C1=CC=C(C=N1)CO | C12H11NO
